US05143928
5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-(hydroxymethylamino)-4(5H)-thiazolone, (Z)-
A mixture of N-methylhydroxylamine hydrochloride (12.52 g, 0.15 mole), barium carbonate (14.8 g, 0.075 mole), ethanol (50 mL), and water (50 mL) is stirred at room temperature for ten minutes. 5-[(3,5-bis (1,1-dimethylethyl)-4-hydroxyphenyl)methylene]-2-thioxo-4-thiazolidinone (see Ikuo Katsumi et al Chem. Pharm. Bull., 34(4), 1619-1627 (1986)) (17.5 g, 0.05 mole) and ethanol (600 mL) are added to it and the resulting mixture is stirred and refluxed for 8 hours. The reaction mixture is then cooled, filtered, and the solvent is removed at 45° C. under reduced pressure. The residue is treated with ice-water and the resulting solid is separated by filtration, washed with water and extracted with methylene chloride. The organic layer is dried and concentrated to give 19 g of a residue. The residue is flash chromatographed over silica gel (214 g), eluting first with methylene chloride and then with methylene chloride-methanol (9:1) to give 11.5 g of the pure product. It is recrystallized from methanol-ethyl acetate, to give 8.6 g (48%) of 5-[[2,6-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-(hydroxymethylamino)-4(5H)-thiazolone, (Z)-, mp 199°-200° C. (dec).

reactant | N-methylhydroxylamine hydrochloride | 0.15 mole, 12.52 g | Cl.CNO
reactant | barium carbonate | 0.075 mole, 14.8 g | C([O-])([O-])=O.[Ba+2]
reactant | 5-[(3,5-bis (1,1-dimethylethyl)-4-hydroxyphenyl)methylene]-2-thioxo-4-thiazolidinone | 0.05 mole, 17.5 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(NC(S1)=S)=O | C18H23NO2S2
solvent | ethanol | 600 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-(hydroxymethylamino)-4(5H)-thiazolone | 19 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(N=C(S1)NCO)=O | C19H26N2O3S
